US08476430B2
B. Methyl 3,3-dimethyl-2,3-dihydrobenzofuran-6-carboxylate
A mixture of methyl 4-bromo-3-(2-methylallyloxy)benzoate (0.500 g, 1.754 mmol), tributyltin hydride (0.708 mL, 2.63 mmol), and AIBN (0.035 g, 0.210 mmol) in benzene (20 mL) was heated in a pressure tube at 120° C. for 22 h. The volatiles were removed under vacuum. The residue was diluted with ethyl acetate (100 mL) and shaken with 10% KF solution. The resulting precipitate was removed by suction filtration through CELITE®. The organic layer of the filtrate was separated, washed with saturated NaHCO3 solution and brine, and dried over anhydrous MgSO4. The desired product, methyl 3,3-dimethyl-2,3-dihydrobenzofuran-6-carboxylate (0.131 g, 0.635 mmol, 36.2% yield) was isolated as a colorless oil with ISCO (40 g silica gel, 1-10% ethyl acetate/hexane).

reactant | methyl 4-bromo-3-(2-methylallyloxy)benzoate | 1.754 mmol, 0.500 g | BrC1=C(C=C(C(=O)OC)C=C1)OCC(=C)C | C12H13BrO3
reactant | tributyltin hydride | 2.63 mmol, 0.708 mL | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | 0.210 mmol, 0.035 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | methyl 3,3-dimethyl-2,3-dihydrobenzofuran-6-carboxylate | 0.635 mmol, 0.131 g, 36.2% yield | CC1(COC2=C1C=CC(=C2)C(=O)OC)C | C12H14O3
